US08791261B2
(iii) Synthesis of 2-[2,6-bis(4-pyridylethynyl)phenoxy]ethyl D-glucopyranoside (1)
2-[2,6-Bis(4-pyridylethynyl)phenoxy]ethyl 2,3,4,6-tetra-O-acetyl-D-glucopyranoside (600 mg, 0.895 mmol) and a methanol (90 ml) solution of sodium methoxide (242 mg, 4.47 mmol) were stirred at room temperature for 12 hours. The reaction mixture was neutralized with a sodium hydrogen carbonate aqueous solution, and concentrated under reduced pressure. The residue was washed with water, and dried to obtain 391 mg of the target product as a white solid (yield: 87%).

reactant | 2-[2,6-Bis(4-pyridylethynyl)phenoxy]ethyl 2,3,4,6-tetra-O-acetyl-D-glucopyranoside | 0.895 mmol, 600 mg | C(C)(=O)O[C@H]1C(OCCOC2=C(C=CC=C2C#CC2=CC=NC=C2)C#CC2=CC=NC=C2)O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O | C36H34N2O11
reactant | sodium methoxide | 4.47 mmol, 242 mg | C[O-].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 90 ml | CO | CH4O
product | 2-[2,6-bis(4-pyridylethynyl)phenoxy]ethyl D-glucopyranoside | 391 mg, yield: 87% | O(C1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CCOC1=C(C=CC=C1C#CC1=CC=NC=C1)C#CC1=CC=NC=C1 | C28H26N2O7
